US06818646B2
1-(3,4-Methylenedioxyphenyl)-2-(tert-butoxycarbonyl]-2,3,4,9-tetrahydro-1H-β-carboline
To a suspension of 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline (27.7 g, 94.8 mmol) (prepared according to the process as disclosed in WO97/43287, Intermediate 7, page 24) in dry methanol (300 mL) was added t-butylpyrocarbonate (25.0 g, 114 mmol). Shortly after the addition of the pyrocarbonate, a clear solution was formed. The solution was stirred at ambient temperature for 1 h, resulting in formation of a white precipitate. The solid was collected by filtration, washed with a 1:1 mixture of diethyl ether:pentane, and dried in vacuo to yield the product as a white solid.

reactant | 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 94.8 mmol, 27.7 g | C1OC=2C=C(C=CC2O1)C1NCCC=2C3=CC=CC=C3NC12 | C18H16N2O2
reactant | t-butylpyrocarbonate | 114 mmol, 25.0 g | C(C)(C)(C)OC(=O)OC(=O)[O-]
reactant | pyrocarbonate | C([O-])(=O)OC(=O)[O-]
solvent | methanol | 300 mL | CO | CH4O
product | 1-(3,4-Methylenedioxyphenyl)-2-(tert-butoxycarbonyl]-2,3,4,9-tetrahydro-1H-β-carboline | C1OC=2C=C(C=CC2O1)C1N(CCC=2C3=CC=CC=C3NC12)C(=O)OC(C)(C)C | C23H24N2O4
